US04822787
To a solution of allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.73 g) in a mixture of tetrahydrofuran (34 ml) and water (11 ml) were added triphenylphosphine (0.41 g), dimedone (1.32 g) and tetrakis(triphenylphosphine)palladium(0) (0.18 g) successively with stirring at ambient temperature. The mixture was stirred at the same temperature for 3 hours. To the solution were added ethyl acetate (50 ml) and water (30 ml). The aqueous layer was separated and washed 3 times with ethyl acetate (30 ml). This aqueous layer was concentrated in vacuo to remove the organic solvent. The residue was chromatographed on activated charcoal (made by Wako Pure Chemical Industries) (30 ml) eluting in turn with water (90 ml) and 15% aqueous isopropyl alcohol (200 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S, 6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.73 g).

reactant | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.73 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCCNC(=O)N | C25H36N4O8S
reactant | triphenylphosphine | 0.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dimedone | 1.32 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 34 ml | O1CCCC1 | C4H8O
solvent | water | 11 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 30 ml | O | H2O
product | (4R,5S, 6S)-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-3-[(2S,4S)-2-{(2-ureidoethyl)oxymethyl}pyrrolidin-4-yl]thio-1azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.73 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)COCCNC(=O)N)C | C18H28N4O6S
